US05726319
Step A: 4-[N-Ethyl-(aminomethyl)]-2'(t-butoxycarbonylaminomethyl)-1,1'-biphenyl
4-Hydroxymethyl-2'(t-butoxycarbonylaminomethyl)-1,1'-biphenyl (70 mg; 0.224 mmol) was dissolved in dry methylene chloride and stirred at 0° C. in an iced water bath and methanesulfonyl chloride (22 μl; 0.285 mmol) and triethylamine (39 μl; 0.280 mmol) added. The reaction mixture was stirred for 3 h at 0° C. and then 70% aqueous ethylamine (5 ml) added. The mixture was stirred for 5 h at room temperature vigorously, then partitioned between water and methylene chloride. The organic phase was separated and the aqueous layer extracted with methylene chloride (2×25 ml). The combined methylene chloride layers were dried over potassium carbonate powder, filtered and evaporated under reduced pressure to leave a thick viscous oil. The oil was subjected to a short column chromatography using a solvent gradient initially of ethyl acetate and hexanes (1:1 v/v) then neat ethyl acetate and finally with ethyl acetate and methanol (3:1 v/v). This afforded 52 mg (68%) of the desired product. FAB-MS:- calculated for C21H28N2O2 340.2 found 341.1 (M+1).

reactant | 4-Hydroxymethyl-2'(t-butoxycarbonylaminomethyl)-1,1'-biphenyl | 0.224 mmol, 70 mg | OCC1=CC=C(C=C1)C1=C(C=CC=C1)CNC(=O)OC(C)(C)C | C19H23NO3
reactant | methanesulfonyl chloride | 0.285 mmol, 22 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.280 mmol, 39 μl | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 5 ml | C(C)N | C2H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[N-Ethyl-(aminomethyl)]-2'(t-butoxycarbonylaminomethyl)-1,1'-biphenyl | 52 mg, 68% | C(C)NCC1=CC=C(C=C1)C1=C(C=CC=C1)CNC(=O)OC(C)(C)C | C21H28N2O2
